US04824840
20 grams of 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril are mixed with 15 ml of acetic anhydride and 10 ml of acetic acid and heated for 5 hours under refluxing conditions. The reaction mixture is concentrated under reduced pressure to dryness. The residue is recrystallized from Ethanol to obtain 5-[3-(4-acetylpiperazinyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 143°-145° C.

reactant | 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril | 20 grams | N1(CCNCC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C16H23N3O2
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-[3-(4-acetylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | C(C)(=O)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C18H25N3O3
